US06265578B1
A solution of dimethyl 2-(4-phenoxyphenyl)malonate (2.56 g, 8.54 mmol) in dry THF (50 mL) was cooled to −78° C. and then lithium diisopropylamide (4.7 mL of a 2M solution in ThF, 9.8 mmol) was added. The reaction was stirred at −78° C. for 1 hour and then allyl bromide (11.4 mg, 9.4 mmol) was added. The reaction was stirred at −78° C. for 3 hours and then allowed to warm to room temperature and heated in a 75° C. oil bath until the reaction was shown to be complete by TLC. The reaction was cooled to room temperature and quenched with 1N HCl. Extraction with ether and drying of the ether extracts (MgSO4) gave crude product. Purification by filtration through silica gel 60 (70-230 mesh) using EtOAc, followed by HPLC (porasil) using 11% EtOAc/hexanes gave 1.8 g of dimethyl 2-(2-propenyl)-2-(4-phenoxyphenyl)malonate as a viscous oil: 1H NMR (200 mHz, CDCl3) δ 7.4-6.85 (9H, m), 5.75 (1H, m), 5.05 (2H, m), 3.75 (6H, s), 3.1 (2H, d).

reactant | dimethyl 2-(4-phenoxyphenyl)malonate | 8.54 mmol, 2.56 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)C(C(=O)OC)C(=O)OC | C17H16O5
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | allyl bromide | 9.4 mmol, 11.4 mg | C(C=C)Br | C3H5Br
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | dimethyl 2-(2-propenyl)-2-(4-phenoxyphenyl)malonate | 1.8 g | C(C=C)C(C(=O)OC)(C(=O)OC)C1=CC=C(C=C1)OC1=CC=CC=C1 | C20H20O5
